US07572808B2
B. Preparation of 4-(4-chlorophenyl)-2-hydrazinyl-3,4′-bipyridine
To a stirring solution of 2-chloro-4-(4-chlorophenyl)-3,4′-bipyridine (1.3 g, 4.3 mmol) in pyridine (5 mL) at room temperature under argon was added hydrazine monohydrate (2.5 mL, 51.5 mmol). The reaction mixture was stirred at reflux under argon for 15 h. After cooling the reaction mixture to room temperature, most of the solvent was removed under reduced pressure. Water (25 mL) was added to the residue while stirring and a precipitate formed. The precipitate was collected by filtration and washed with water (15 mL×2). After drying under reduced pressure at elevated temperature, 1.0 g of the title compound was obtained as a yellow solid. HPLC/MS: retention time=1.68 min, [M+H]+=297.

reactant | 2-chloro-4-(4-chlorophenyl)-3,4′-bipyridine | 4.3 mmol, 1.3 g | ClC1=NC=CC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C16H10Cl2N2
reactant | hydrazine monohydrate | 51.5 mmol, 2.5 mL | O.NN
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 4-(4-chlorophenyl)-2-hydrazinyl-3,4′-bipyridine | 1.0 g | ClC1=CC=C(C=C1)C1=C(C(=NC=C1)NN)C1=CC=NC=C1 | C16H13ClN4
